US08669249B2
Methyl 2-(4-((2H-indazol-2-yl)methyl)-2-nitrophenoxy)propanoate (344B)
Using 4-((2H-indazol-2-yl)methyl)-2-nitrophenol as the phenol and methyl-2-bromopropanoate as the alkylating agent in the general procedure for alkylation of substituted-2-nitrophenols gives a light yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.51 (d, J=6.82 Hz, 3H) 3.66 (s, 3H) 5.24 (q, J=6.82 Hz, 1H) 5.66 (s, 2H) 7.00-7.08 (m, 1H) 7.19-7.29 (m, 2H) 7.54-7.63 (m, 2H) 7.71 (d, J=8.34 Hz, 1H) 7.94 (d, J=2.02 Hz, 1H) 8.52 (s, 1H). ESI-MS: m/z 356.2 (M+H)+.

reactant | 4-((2H-indazol-2-yl)methyl)-2-nitrophenol | N=1N(C=C2C=CC=CC12)CC1=CC(=C(C=C1)O)[N+](=O)[O-] | C14H11N3O3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl-2-bromopropanoate | COC(C(C)Br)=O | C4H7BrO2
product | Methyl 2-(4-((2H-indazol-2-yl)methyl)-2-nitrophenoxy)propanoate | N=1N(C=C2C=CC=CC12)CC1=CC(=C(OC(C(=O)OC)C)C=C1)[N+](=O)[O-] | C18H17N3O5
